US07902238B2
d) ((S)-2-Amino-4,5-dihydro-oxazol-4-ylmethyl)-ethyl-(2-trifluoromethyl-pyrimidin-4-yl)-amine
To a stirred mixture of (S)-2-amino-3-[ethyl-(2-trifluoromethyl-pyrimidin-4-yl)-amino]-propan-1-ol (0.185 g, 0.7 mmol) and K2CO3 (0.145 g, 1.05 mmol) in THF (5 ml) under an argon atmosphere was added a solution of cyanogen bromide (0.111 g, 1.05 mmol) in THF (1 ml). The mixture was stirred for 2 hours, then methanol (1 ml) was added. The solution was evaporated over Isolute® Flash-NH2 silicagel. Chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate/MeOH=95:5) yielded the title compound as light yellow oil, (0.084 g, 42%); MS (ISP): 290.0 ((M+H)+).

reactant | (S)-2-amino-3-[ethyl-(2-trifluoromethyl-pyrimidin-4-yl)-amino]-propan-1-ol | 0.7 mmol, 0.185 g | N[C@H](CO)CN(C1=NC(=NC=C1)C(F)(F)F)CC | C10H15F3N4O
reactant | K2CO3 | 1.05 mmol, 0.145 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | 1.05 mmol, 0.111 g | N#CBr | CBrN
reactant | methanol | 1 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | ((S)-2-Amino-4,5-dihydro-oxazol-4-ylmethyl)-ethyl-(2-trifluoromethyl-pyrimidin-4-yl)-amine | 0.084 g, 42% | NC=1OC[C@@H](N1)CN(C1=NC(=NC=C1)C(F)(F)F)CC | C11H14F3N5O
